US07157454B2
A) Methyl 4-(azidomethyl)benzoate
8.13 g of sodium azide are added over 5 minutes to a solution of 5.73 g of methyl 4-(bromomethyl)benzoate in 30 ml of DMSO and the mixture is stirred for 3 hours 30 minutes at RT. The reaction mixture is extracted with ether, the organic phase is washed with water and with saturated NaCl solution and dried over Na2SO4, and the solvent is evaporated off under vacuum. 4.72 g of the expected product are obtained in the form of a colourless oil.

reactant | sodium azide | 8.13 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl 4-(bromomethyl)benzoate | 5.73 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | Methyl 4-(azidomethyl)benzoate | 4.72 g | N(=[N+]=[N-])CC1=CC=C(C(=O)OC)C=C1 | C9H9N3O2
